US05786358
To a sample of 225 mg (0.70 mmol) of 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarboxylic acid in a three-necked round bottomed flask under an atmosphere of nitrogen were added 3.5 mL anhydrous dimethylformamide and 0.08 mL (0.72 mmol) of N-methylmorpholine. The reaction mixture was stirred at room temperature and 135 mg (0.77 mmol) 2-chloro-4,6-dimethoxy-1,3,5-triazine were added at once. The reaction was stirred for 0.5 hours at room temperature, and 213 mg (1.14 mmol) of trans-dimethyl pyrrolidine-2,4-dicarboxylate were added in 1.0 mL of dimethylformamide. After stirring at room temperature for another 3.5 hours, the reaction was concentrated in vacuo and chromatographed on silica gel with 2-8% CH3OH/CHCl3 to give 185 mg (54%) of trans-dimethyl 1-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylcarbonyl}pyrrolidine-2,4-dicarboxylate as a tan solid. Mass Spectrum (FAB+): M+1=490; 1H NMR (300 MHz, DMSO) δ: 1.54-1.64 (m, 3H); 1.76-1.84 (m, 1H); 2.11-2.29 (m, 3H); 2.36-2.43 (m,--1H); 2.72-2.79 (m, 1H); 2.86-2.88 (m, 2H); 3.07-3.23 (m, 2H); 3.61 (s, 6H); 3.95-4.08 (m, 2H); 4.49-4.54 (M, 1H); 5.92 (s, 2H); 6.24 (d, J=1.6 Hz, 1H); 6.91-6.92 (m, 1H); 7.48 (d, J=2.4 Hz, 1H).

reactant | 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarboxylic acid | 0.70 mmol, 225 mg | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)O)O | C14H16N4O3S
reactant | N-methylmorpholine | 0.72 mmol, 0.08 mL | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.77 mmol, 135 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | trans-dimethyl pyrrolidine-2,4-dicarboxylate | 1.14 mmol, 213 mg | N1[C@H](C[C@@H](C1)C(=O)OC)C(=O)OC | C8H13NO4
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | trans-dimethyl 1-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylcarbonyl}pyrrolidine-2,4-dicarboxylate | 185 mg, 54% | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)N2[C@H](C[C@@H](C2)C(=O)OC)C(=O)OC)O | C22H27N5O6S
